US06291530B1
A solution of 2-[5-bromo-2-[2,6-difluorobenzyloxy)phenyl]-1-ethanol (14.07 g, 41.02 mmol) and N,N-diethylcrotonamide (8.68 g, 61.53 mmol) in 60 mL triethylamine in a thick-walled pyrex tube is degassed wish nitrogen for 15 minutes. Pd(OAc)2 (0.46 g, 2.05 mmol) and tri-o-tolylphosphine (1.25 g, 4.10 mmol) are placed into the tube, which is then sealed, and the mixture is heated to 100° for 5 hours. The mixture is diluted with EtOAc (400 mL), and white precipitate is filtered out. The filtrate is then washed with 1 N HCl (2×400 mL), H20 (1×100 mL) and brine (1×100 ni), dried over MgSO4, and concentrated in vacuo. Chromatography (silica, 3:1 EtOAc/hexane) gives (E)-3-[4-(2,6-difluorobenzyloxy)-3-(2-hydroxyethyl)-phenyl]-2-butenoic acid diethy amide.

reactant | 2-[5-bromo-2-[2,6-difluorobenzyloxy)phenyl]-1-ethanol | 41.02 mmol, 14.07 g | BrC=1C=CC(=C(C1)CCO)OCC1=C(C=CC=C1F)F | C15H13BrF2O2
reactant | N,N-diethylcrotonamide | 61.53 mmol, 8.68 g | C(C)N(C(\C=C\C)=O)CC | C8H15NO
reactant | tri-o-tolylphosphine | 4.10 mmol, 1.25 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | triethylamine | 60 mL | C(C)N(CC)CC | C6H15N
solvent | EtOAc | 400 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(OAc)2 | 2.05 mmol, 0.46 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | (E)-3-[4-(2,6-difluorobenzyloxy)-3-(2-hydroxyethyl)-phenyl]-2-butenoic acid diethy amide | C(C)N(C(\C=C(/C)\C1=CC(=C(C=C1)OCC1=C(C=CC=C1F)F)CCO)=O)CC | C23H27F2NO3
